US06407129B1
[(1S)-1-(benzyloxycarbonyl)ethyl] chloromethyl carbonate (2.7 g) was dissolved in acetonitrile (4 ml) and sodium iodide (6.0 g) was added. The mixture was stirred at 60° C. for 2 hours under an argon atmosphere. After the reaction mixture was concentrated under reduced pressure, diethyl ether (100 ml) and water (100 ml) were added to the residue. The diethyl ether layer was separated and washed with an aqueous 5% sodium thiosulfate solution (80 ml), water (80 ml), and a saturated sodium chloride aqueous solution (80 ml) successively. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain [(1S)-1-(benzyloxycarbonyl)ethyl] iodomethyl carbonate (3.3 g) as a colorless liquid.

reactant | [(1S)-1-(benzyloxycarbonyl)ethyl] chloromethyl carbonate | 2.7 g | C(O[C@@H](C)C(=O)OCC1=CC=CC=C1)(OCCl)=O | C12H13ClO5
reactant | sodium iodide | 6.0 g | [I-].[Na+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | [(1S)-1-(benzyloxycarbonyl)ethyl] iodomethyl carbonate | 3.3 g | C(O[C@@H](C)C(=O)OCC1=CC=CC=C1)(OCI)=O | C12H13IO5
